US08138176B2
a) 1-(4-Cyanophenyl)-2-(1-trityl-1H-imidazol-4-ylmethoxy)ethyl methanesulphonate
4 mmol of triethylamine and 2.00 mmol of methanesulphonyl chloride are added to a solution of 1.00 mmol of 4-[1-hydroxy-2-(1-trityl-1H-imidazol-4-ylmethoxy)ethyl]benzonitrile in 10 ml of dichloromethane at 0° C. The reaction mixture is stirred at 0° C. for 1 hour, diluted with dichloromethane, washed with 1N HCl, dried with sodium sulphate and evaporated. The crude title compound is used without further purification in the next stage. Rf=0.43 (dichloromethane-methanol 95:5); Rt=4.46 (gradient I).

reactant | triethylamine | 4 mmol | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 2.00 mmol | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-[1-hydroxy-2-(1-trityl-1H-imidazol-4-ylmethoxy)ethyl]benzonitrile | 1.00 mmol | OC(COCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C#N)C=C1 | C32H27N3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-(4-Cyanophenyl)-2-(1-trityl-1H-imidazol-4-ylmethoxy)ethyl methanesulphonate | CS(=O)(=O)OC(COCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C#N | C33H29N3O4S
